US09376422B2
Step 5: Synthesis of 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoic acid
To a solution of methyl 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoate (127 mg, 0.39 mmol) in THF (4 ml) was added 4M NaOH (3.87 ml). The reaction mixture was stirred at 50° C. for 24 hours. The reaction mixture was acidified to pH 2-3 with 6M HCl and extracted with DCM (5×15 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give 111 mg (91%) of the title compound as a yellow oil. LC-MS 80%, 1.25 min (3 minute LC-MS method), m/z=314.4/315.9, 1H NMR (500 MHz, Chloroform-d) δ ppm 10.02-9.55 (m, 1H), 8.01-7.47 (m, 1H), 7.36-6.96 (m, 1H), 4.15-3.86 (m, 5H), 3.76 (t, J=6.6 Hz, 2H), 3.55-3.12 (m, 3H), 1.95-1.59 (m, 4H), 1.15-0.88 (m, 3H).

reactant | methyl 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoate | 0.39 mmol, 127 mg | ClC=1C=C(C(=C(C(=O)OC)C1)OC)N(C1CCOCC1)CC | C16H22ClNO4
reactant | NaOH | 4M, 3.87 ml | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoic acid | 111 mg, 91% | ClC=1C=C(C(=C(C(=O)O)C1)OC)N(C1CCOCC1)CC | C15H20ClNO4
